US04382143
Preparation of 4-hexadecylamino-2-thiophenecarboxylic acid
A mixture of 4.4 g. of 2-carbamyl-4-hexadecylaminothiophene, 50 ml. of methyl cellosolve, and 50 ml. of 6 N hydrochloric acid is refluxed for 40 hours and then allowed to cool. The solid is filtered and recrystallized from methanol. The solid is then dissolved in hot sodium bicarbonate solution, filtered, and the filtrate is acidified with concentrated hydrochloric acid. The resulting precipitate is collected and recrystallized from isopropanol to yield the product.

reactant | 2-carbamyl-4-hexadecylaminothiophene | C(N)(=O)C=1SC=C(C1)NCCCCCCCCCCCCCCCC | C21H38N2OS
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | methyl cellosolve | COCCO | C3H8O2
product | 4-hexadecylamino-2-thiophenecarboxylic acid | C(CCCCCCCCCCCCCCC)NC=1C=C(SC1)C(=O)O | C21H37NO2S
